US08685975B2
To a suspension of 3,5-dimethoxy-4-methylphenol in anhydr CH2Cl2 (10 mL) under argon was added dry pyridine (0.4 mL, 4.9 mmol) then the mixture was cooled over an ice bath. Trifluoromethanesulfonic anhydride (0.52 g, 3.1 mmol) was added dropwise and the reaction was stirred for 1 hr. Saturated aqueous NaHCO3 was added and stirred then it was warmed to room temperature. The mixture was diluted with CH2Cl2 and the layers were separated. The organics were washed with H2O and saturated aqueous NaHCO3 then dried over MgSO4 and concentrated in vacuo to give 3,5-dimethoxy-4-methylphenyl trifluoromethanesulfonate as a yellow oil (0.508 g, 60% yield). The product was used without further purification.

reactant | 3,5-dimethoxy-4-methylphenol | COC=1C=C(C=C(C1C)OC)O | C9H12O3
reactant | pyridine | 4.9 mmol, 0.4 mL | N1=CC=CC=C1 | C5H5N
reactant | Trifluoromethanesulfonic anhydride | 3.1 mmol, 0.52 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 3,5-dimethoxy-4-methylphenyl trifluoromethanesulfonate | 0.508 g, 60% yield | FC(S(=O)(=O)OC1=CC(=C(C(=C1)OC)C)OC)(F)F | C10H11F3O5S
